US07005432B2
5-Chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine (0.07 g, 0.34 mmol), 3-chloro-4-fluorophenylboronic acid (0.076 g, 0.44 mmol), K2CO3 (0.09 g, 0.67 mmol) and tetrakis(triphenylphosphine)palladium (0.04 g, 0.034 mmol) were mixed and degassed dioxane (1.4 ml) was added. The mixture was refluxed for 44 hours and the solvent was removed in vacuo. The residue was taken in MeCl2, filtrated and the filtrate was concentrated in vacuo. The residue was chromatographed over silica gel (CH2Cl2—MeOH 98:02) to provide a white foam which was dissolved in MeOH (2 ml). HCl-Et2O was added to provide 5-(3-chloro-4-fluoro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride (0.1 g, 77%) as an offwhite solid, MS: m/e=302.7 (M+).

reactant | 5-Chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | 0.34 mmol, 0.07 g | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
reactant | 3-chloro-4-fluorophenylboronic acid | 0.44 mmol, 0.076 g | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | K2CO3 | 0.67 mmol, 0.09 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl Et2O | Cl.CCOCC
solvent | MeOH | 2 ml | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium | 0.034 mmol, 0.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-chloro-4-fluoro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | 0.1 g, 77% | Cl.ClC=1C=C(C=CC1F)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C15H12ClFN4.ClH/c1-10-18-4-5-21(10)9-13-6-12(8-19-20-13)11-2-3-15(17)14(16)7-11;/h2-8H,9H2,1H3;1H
